US09416353B2
e. 2-(3-chloropropyl)-5-(t-butyldimethylsilyloxymethyl)furan
A solution of 2-(t-butyldimethylsilyloxymethyl)furan (5 g, 0.023 mol) in THF (48 mL) was dried over 3 Å molecular sieves. After the sieves were removed, an additional 10 mL THF was added along with TMEDA (3.47 mL, 0.023 mol), and the solution was cooled to 0° C. in an ice bath. A solution of BuLi (10.1 mL of 2.5M in hexane, 0.025 mol) was added dropwise over 25 minutes. The mixture was allowed to stir for 1 hour. 1-chloro-3-iodopropane (5.64 g, 0.028 mol) was injected rapidly. After 2 hours TLC indicated completion. The solvent was evaporated, and the material was partitioned between ether (100 mL) and 5% citric acid (100 mL). The ether layer was washed with water (50 mL) and then brine (50 mL). The ether solution was dried with sodium sulfate, filtered, and evaporated. The resulting material was flashed on silica using 20/1 heptane/EtOAc. Appropriate fraction were combined and evaporated to yield 4.9 g (75% yield). TLC: Rf 0.6 (Heptane/EtOAc 5/1) 1H NMR: (CDCl3) δ 0.00 (s, 6H), 0.83 (s, 9H), 2.01 (p, 2H), 2.71 (t, 2H), 3.48 (t, 2H), 4.51 (s, 2H), 5.88 (d, 1H), 6.04 (d, 1H)

reactant | 2-(t-butyldimethylsilyloxymethyl)furan | 0.023 mol, 5 g | [Si](C)(C)(C(C)(C)C)OCC=1OC=CC1 | C11H20O2Si
reactant | TMEDA | 0.023 mol, 3.47 mL | CN(C)CCN(C)C | C6H16N2
reactant | BuLi | 0.025 mol, 2.5M, 10.1 mL | [Li]CCCC
reactant | 1-chloro-3-iodopropane | 0.028 mol, 5.64 g | ClCCCI | C3H6ClI
solvent | THF | 48 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 2-(3-chloropropyl)-5-(t-butyldimethylsilyloxymethyl)furan | 75% yield | ClCCCC=1OC(=CC1)CO[Si](C)(C)C(C)(C)C | C14H25ClO2Si
